### PR TITLE
representation of inductive and coinductive syntax with actegories

### PR DESCRIPTION
**Pull request by rmatthes**
This work expands on the CPP'22 paper "Implementing a category-theoretic framework for typed abstract syntax" about the construction of inductive syntax for multisorted binding signatures in two ways: 
- coinductive syntax for multisorted binding signatures is taken into account (whose existence is based on $\omega$-continuity of the generated signature functor, while the inductive case is based on $\omega$-cocontinuity)
- the constructions are first abstractly done on the level of a monoidal category (using the strength notion coming from actegories - for the action of (monoidal-)pointed objects on all objects) then instantiated to suitable functor categories over a base category with suitable properties, finally the base category is instantiated to the category of sets

The material is complete but not yet polished. It contains plenty of upstream material but could do even more service to the UniMath library. Comments are welcome. The new material should not interfere with the packages of UniMath other than SubstitutionSystems and the parts on monoidal categories in CategoryTheory and Bicategories.

### CODE REVIEW

**Comment by rmatthes** [comment]
I do not know what the failure of the sanity checks means. Locally, they run fine. Is there a problem if one normally runs Dune but does the sanity checks with `make`?

**Comment by benediktahrens** [comment]
Re sanity checks: CI seems to say that CONTENTS.md is not up to date. Could you make that file and commit it?

**Comment by rmatthes** [comment]
> Re sanity checks: CI seems to say that CONTENTS.md is not up to date. Could you make that file and commit it?

When I check it with `make sanity-checks`, all is fine. When I want to build it with Dune, nothing is to be done. So, I just have no idea how to proceed.

**Comment by m-lindgren** [comment]
Try the command `make UniMath/CONTENTS.md`, it should generate a new `CONTENTS.md` for you (I hope) that's up to date.

**Comment by rmatthes** [comment]
> Try the command `make UniMath/CONTENTS.md`, it should generate a new `CONTENTS.md` for you (I hope) that's up to date.

I removed a line from that file, and still this make command did nothing. But motivated by your suggestion, I deleted the file, and then it was generated with the next make command.

**Comment by rmatthes** [comment]
Thanks to @benediktahrens and @m-lindgren, the first hurdle is overcome.

File: UniMath/MoreFoundations/Tactics.v [hunk 1]
```diff
@@ -62,3 +62,24 @@ Proof. intros. exact (f ig). Defined.
...
+Ltac split13 := split; [| split12].
+Ltac split14 := split; [| split13].
+Ltac split15 := split; [| split14].
+Ltac split16 := split; [| split15].
+Ltac split17 := split; [| split16].
+Ltac split18 := split; [| split17].
+Ltac split19 := split; [| split18].
+Ltac split20 := split; [| split19].
+Ltac split21 := split; [| split20].
+(** this allows to decompose a goal for [prebicat_laws] *)
```
Comment (nmvdw) [inline UniMath/MoreFoundations/Tactics.v:85]: I tend to use `repeat split` for such goals. This way, I don't need to know how many goals there will be, which seems to be necessary for these tactics.

File: UniMath/CategoryTheory/BicatOfCatsElementary.v [hunk 2]
```diff
@@ -0,0 +1,314 @@
...
+
+Definition lassociator_CAT {C D E F : category} (X : [C, D]) (Y : [D, E]) (Z : [E, F]) :
+    [C, F] ⟦functor_compose X (functor_compose Y Z), functor_compose (functor_compose X Y) Z⟧
+    := nat_trans_id (functor_composite X (functor_composite Y Z)).
+
+Definition rassociator_CAT {C D E F : category} (X : [C, D]) (Y : [D, E]) (Z : [E, F]) :
+    [C, F] ⟦functor_compose (functor_compose X Y) Z, functor_compose X (functor_compose Y Z)⟧
+    := nat_trans_id (functor_composite (functor_composite X Y) Z).
+
+Definition vcomp2_CAT {C D : category} (F G H : [C, D]) : [C,D]⟦F, G⟧ -> [C,D]⟦G, H⟧ -> [C,D]⟦F, H⟧.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/BicatOfCatsElementary.v:51]: Do you want `F, G, H` as implicit or as explicit arguments? For the bicategorical `vcomp2`, they are implicit. For `nat_trans_comp`, they are explicit, but not that this causes there to be more `_` in the code (see line 53 here).

File: UniMath/CategoryTheory/BicatOfCatsElementary.v [hunk 3]
```diff
@@ -0,0 +1,314 @@
+(** the constituents of the bicategory of categories without using the package [Bicategories];
```
Comment (nmvdw) [inline UniMath/CategoryTheory/BicatOfCatsElementary.v:1]: In UniMath, `CategoryTheory` does not depend for good reasons on `Bicategories`. My question is: why is this file needed? What stuff depends on it? What is the advantage of keeping that in `CategoryTheory` instead of categories? This could also be good to add in the comments of this file.

File: UniMath/Bicategories/MonoidalCategories/MonadsAsMonoidsWhiskered.v [hunk 4]
```diff
@@ -0,0 +1,66 @@
...
+Require Import UniMath.CategoryTheory.Monoidal.CategoriesOfMonoidsWhiskered.
+Require Import UniMath.Bicategories.MonoidalCategories.EndofunctorsWhiskeredMonoidal.
+Require Import UniMath.CategoryTheory.Monads.Monads.
+
+Local Open Scope cat.
+
+Section MonoidToMonad.
+
+  Context {C : category}.
+  Let ENDO := monoidal_of_endofunctors C.
```
Comment (nmvdw) [inline UniMath/Bicategories/MonoidalCategories/MonadsAsMonoidsWhiskered.v:25]: While not needed, I like to add type declarations to `Let` statements. Like `Let ENDO : monoidal_cat := monoidal_of_endofunctors C.`

File: UniMath/Bicategories/MonoidalCategories/MonadsAsMonoidsWhiskered.v [hunk 5]
```diff
@@ -0,0 +1,66 @@
+(** In this file, we show how any monoid in the monoidal category of endofunctors is a monad **)
```
Comment (nmvdw) [inline UniMath/Bicategories/MonoidalCategories/MonadsAsMonoidsWhiskered.v:1]: Would it be a lot of work to construct an equivalence of types? This could also be left for later

File: UniMath/Bicategories/MonoidalCategories/ActionOfEndomorphismsInBicatWhiskered.v [hunk 6]
```diff
@@ -82,10 +183,176 @@ Section Instantiation_To_Bicategory_Of_Categories.
...
+  (* Transparent action_from_precomp_CAT_laws. *)
+
+  Definition actegoryfromprecomp_actions_equal_statement : UU :=
+    actegory_action (monendocat_monoidal C) (actegory_from_precomp_CAT C D) =
+      actegory_action (monendocat_monoidal C) actegoryfromprecomp. (* slow *)
+
+Lemma actegoryfromprecomp_actions_equal : actegoryfromprecomp_actions_equal_statement.
+Proof.
+  cbn.
+  use total2_paths_f.
```
Comment (nmvdw) [inline UniMath/Bicategories/MonoidalCategories/ActionOfEndomorphismsInBicatWhiskered.v:201]: I think you can use `subtypePath` here instead of `total2_paths_f`.

File: UniMath/CategoryTheory/FunctorCoalgebras.v [hunk 7]
```diff
@@ -164,14 +167,180 @@ Proof.
   apply (coalgebra_mor_commutes F f).
 Defined.
 
-Lemma terminalcoalgebra_isiso : is_iso α.
+Lemma terminalcoalgebra_is_z_iso : is_z_isomorphism α.
 Proof.
-  apply (is_iso_qinv α α').
+  exists α'.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/FunctorCoalgebras.v:172]: `make_is_z_isomorphism` could be of use here

File: UniMath/CategoryTheory/FunctorCoalgebras.v [hunk 8]
```diff
@@ -164,14 +167,180 @@ Proof.
...
   split.
   - exact αα'_idA.
   - exact α'α_idFA.
 Defined.
 
-Definition terminalcoalgebra_iso : iso A (F A) := make_iso α terminalcoalgebra_isiso.
+Definition terminalcoalgebra_z_iso : z_iso A (F A) := α,, terminalcoalgebra_is_z_iso.
+
+Definition terminalcoalgebra_iso : iso A (F A) := z_iso_to_iso terminalcoalgebra_z_iso.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/FunctorCoalgebras.v:180]: Will the `iso` be needed or is the `z_iso` sufficient?

File: UniMath/CategoryTheory/limits/terminal.v [hunk 9]
```diff
@@ -188,6 +188,18 @@ use make_Terminal.
...
 
+Definition Terminal_functor_precat_alt : Terminal [C,D].
+Proof.
+use make_Terminal.
+- exact (constant_functor _ _ ID).
+- intros F.
+  use tpair.
+  + use make_nat_trans; simpl.
+    * intro a; apply TerminalArrow.
+    * intros a b f; apply TerminalArrowEq.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/limits/terminal.v:199]: This line could be made abstract

File: UniMath/CategoryTheory/limits/binproducts.v [hunk 10]
```diff
@@ -613,9 +616,104 @@ Proof.
...
+  - rewrite assoc'.
+    etrans.
+    { apply maponpaths.
+      apply BinProductPr2Commutes. }
+    etrans.
+    { apply BinProductOfArrowsPr1. }
+    apply idpath.
+Qed.
+
+Definition BinProduct_of_functors_commutes :
```
Comment (nmvdw) [inline UniMath/CategoryTheory/limits/binproducts.v:703]: I think this might be an instance of that fact that `X * Y \cong Y * X`, but then instantiated to functor categories.

File: UniMath/CategoryTheory/limits/binproducts.v [hunk 11]
```diff
@@ -744,18 +842,28 @@ Proof.
     + exact (id_right _ @ !id_left _).
 Defined.
 
+Lemma terminal_binprod_unit_l {C : category}
+      (T : Terminal C) (BC : BinProducts C) :
+  ∏ x : C, is_iso (BinProductPr2 C (BC T x)).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/limits/binproducts.v:847]: Why do you use `is_iso` instead of `is_z_isomorphism`?

File: UniMath/CategoryTheory/limits/binproducts.v [hunk 12]
```diff
@@ -766,6 +874,68 @@ Proof.
     + apply TerminalArrowEq.
 Defined.
 
+Lemma terminal_binprod_unit_r {C : category}
+      (T : Terminal C) (BC : BinProducts C) :
+  ∏ x : C, is_iso (BinProductPr1 C (BC x T)).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/limits/binproducts.v:879]: Would an `is_z_isomorphism` also be fine here?

File: UniMath/CategoryTheory/limits/binproducts.v [hunk 13]
```diff
@@ -766,6 +874,68 @@ Proof.
...
+Defined.
+
+Lemma terminal_BinProduct_of_functors_unit_r_law :
+  is_nat_trans _ _ terminal_BinProduct_of_functors_unit_r_data.
+Proof.
+  intros c c' f.
+  apply BinProductOfArrowsPr1.
+Qed.
+
+Definition terminal_BinProduct_of_functors_unit_r  :
```
Comment (nmvdw) [inline UniMath/CategoryTheory/limits/binproducts.v:927]: This also seems to be an instance of a general fact, namely that `X * 1 \cong X`, but then instantiated to functor categories.

File: UniMath/CategoryTheory/Monoidal/CategoriesOfMonoidsWhiskered.v [hunk 14]
```diff
@@ -0,0 +1,212 @@
...
+Require Import UniMath.CategoryTheory.DisplayedCats.Core.
+Require Import UniMath.CategoryTheory.DisplayedCats.Total.
+
+Local Open Scope cat.
+
+Section Category_of_Monoids.
+
+  Context {C : category} (M : monoidal C).
+
+  Notation "x ⊗ y" := (x ⊗_{M} y).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/CategoriesOfMonoidsWhiskered.v:22]: Would this notation be usable: https://github.com/UniMath/UniMath/blob/master/UniMath/CategoryTheory/Monoidal/MonoidalCategories.v#L490 (the scope is `moncat`)? How much of this notation can be put in the file on monoidal categories, so that it is usable outside of this file as well?

**Review by nmvdw — COMMENTED** [review]
I am not finished yet with the review, but here are some comments already. The material looks very interesting!

**Comment by nmvdw** [comment]
For `SetHITs`, the error is:
```
File "./UniMath/Combinatorics/Lists.v", line 223, characters 4-26:
[614](https://github.com/UniMath/UniMath/actions/runs/4298031600/jobs/7491700247#step:6:620)
  Error:
[615](https://github.com/UniMath/UniMath/actions/runs/4298031600/jobs/7491700247#step:6:621)
  Found no subterm matching "foldr1_map ?M77 ?M78 ?M79 nil" in the current goal.
```
The Coq development version was added to the CI, when the file on Left Kan Extensions led to a problem with it. This was also caused by a rewrite, which worked fine on my version of Coq, while on the development version it did not work. I don't have a general solution for it, but in this case, the lines that cause problems with the development version, could basically use `apply` instead of `rewrite` (after using `etrans` and `maponpaths` so that it is used in the right location of the term).

File: UniMath/CategoryTheory/Monoidal/ProductActegory.v [hunk 15]
```diff
@@ -0,0 +1,419 @@
...
+      + red; split; apply id_left.
+  Defined.
+
+End OneProduct.
+
+Section Power.
+
+  Context (I : UU) {C : category} (Act : actegory Mon_V C).
+
+  Definition actegory_power : actegory Mon_V (power_category I C) :=
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/ProductActegory.v:347]: Personally, I am not too fond of the terminology `power_category` for the product (same for `actegory_power`). Powers are some kind of weighted limit and they occur frequently in enriched category theory and bicategory theory (https://ncatlab.org/nlab/show/powering). In the bicategory of categories, they correspond to functor categories, but that does not hold in general. 

The names 'tensor' (refers to the copower, which is a colimit) and 'cotensor' (refers to the power, which is a limit) have also been used for these concepts, but they come with their own confusions.

If at some point we add the notion of powers in bicategories, then these names are going to cause a clash. For that reason, I am in favor of renaming these concepts.

File: UniMath/CategoryTheory/coslicecat.v [hunk 16]
```diff
@@ -91,6 +92,8 @@ Proof.
   * apply assoc'.
 Defined.
 
+(** that the previous Lemma is defined was done on purpose in 2018 - is it still appropriate? *)
```
Comment (nmvdw) [inline UniMath/CategoryTheory/coslicecat.v:95]: Does the code still compile if you make it `Qed`?

File: UniMath/CategoryTheory/Monoidal/ConstructionOfActegoryMorphisms.v [hunk 17]
```diff
@@ -0,0 +1,1212 @@
...
+  Definition composedlifteddistributivity_data: lifteddistributivity_data (v1 ⊗_{Mon_V} v2).
+  Proof.
+    red; intros.
+    exact (αinv_{Mon_V} _ _ _ · δ1 w ⊗^{Mon_V}_{r} v2 · α_{Mon_V} _ _ _
+             · v1 ⊗^{Mon_V}_{l} δ2 w · αinv_{Mon_V} _ _ _).
+  Defined.
+
+  Lemma composedlifteddistributivity_nat: lifteddistributivity_nat composedlifteddistributivity_data.
+  Proof.
+    do 2 red; intros; unfold composedlifteddistributivity_data; cbn.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/ConstructionOfActegoryMorphisms.v:520]: Why do you need `do 2 red`? Would `red` have been sufficient?

File: UniMath/CategoryTheory/Monoidal/ConstructionOfActegoryMorphisms.v [hunk 18]
```diff
@@ -0,0 +1,1212 @@
...
+         apply pathsinv0, (functor_comp (leftwhiskering_functor Mon_V v1)). }
+    cbn.
+    repeat rewrite assoc.
+    apply cancel_postcomposition.
+    apply pathsinv0, monoidal_associatornatleftright.
+  Qed.
+
+  Lemma composedlifteddistributivity_tensor: lifteddistributivity_tensor composedlifteddistributivity_data.
+  Proof.
+    do 2 red; intros; unfold composedlifteddistributivity_data; cbn.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/ConstructionOfActegoryMorphisms.v:565]: Same here: why is `do 2 red` needed?

**Review by nmvdw — APPROVED** [review]
I looked at all files, except for those in `SubstitutionSystems`, and I think that part looks good.

File: UniMath/MoreFoundations/Tactics.v (hunk 1 above)
Comment (rmatthes) [reply UniMath/MoreFoundations/Tactics.v:85]: In the past, I mostly used `repeat split`. The downside is that it flattens out the whole substructure of goals, e.g., when there are several laws for each unitor and the associator in whiskered monoidal categories. `split` does not only apply the splitting of a pair into the components but can also solve other goals that are inductive with only one constructor (such as `unit`). This means that the bulleted list of proofs that come may no longer reflect the logical structure of the goal as iterated product (since `unit` may only be the type thanks to an instantiation of the treated abstract goal).

File: UniMath/CategoryTheory/BicatOfCatsElementary.v (hunk 2 above)
Comment (rmatthes) [reply UniMath/CategoryTheory/BicatOfCatsElementary.v:51]: Good point. Currently, `vcomp2_CAT` is not used, but it should better have the same number of implicit arguments as `vcomp2`. I changed this in my local copy.

File: UniMath/CategoryTheory/BicatOfCatsElementary.v (hunk 3 above)
Comment (rmatthes) [reply UniMath/CategoryTheory/BicatOfCatsElementary.v:1]: I have the comments now in my local copy. I'll move the file to `categories` in a second commit.

**Comment by benediktahrens** [comment]
> For `SetHITs`, the error is:
> 
> ```
> File "./UniMath/Combinatorics/Lists.v", line 223, characters 4-26:
> [614](https://github.com/UniMath/UniMath/actions/runs/4298031600/jobs/7491700247#step:6:620)
>   Error:
> [615](https://github.com/UniMath/UniMath/actions/runs/4298031600/jobs/7491700247#step:6:621)
>   Found no subterm matching "foldr1_map ?M77 ?M78 ?M79 nil" in the current goal.
> ```
> 
> The Coq development version was added to the CI, when the file on Left Kan Extensions led to a problem with it. This was also caused by a rewrite, which worked fine on my version of Coq, while on the development version it did not work. I don't have a general solution for it, but in this case, the lines that cause problems with the development version, could basically use `apply` instead of `rewrite` (after using `etrans` and `maponpaths` so that it is used in the right location of the term).

This might be an issue similar to #1614, a regression in Coq dev compared to Coq 8.16. It would be good to let @SkySkimmer know about this, possibly by filing a bug report against Coq with a pointer to this PR.

File: UniMath/Bicategories/MonoidalCategories/MonadsAsMonoidsWhiskered.v (hunk 4 above)
Comment (rmatthes) [reply UniMath/Bicategories/MonoidalCategories/MonadsAsMonoidsWhiskered.v:25]: I agree in general. In my local copy, there are now types for all `Let` of this file.

**Comment by SkySkimmer** [comment]
Can you try on https://github.com/coq/coq/pull/17294 ?

File: UniMath/Bicategories/MonoidalCategories/ActionOfEndomorphismsInBicatWhiskered.v (hunk 6 above)
Comment (rmatthes) [reply UniMath/Bicategories/MonoidalCategories/ActionOfEndomorphismsInBicatWhiskered.v:201]: right so, now in my local copy

File: UniMath/CategoryTheory/FunctorCoalgebras.v (hunk 7 above)
Comment (rmatthes) [reply UniMath/CategoryTheory/FunctorCoalgebras.v:172]: ok

File: UniMath/CategoryTheory/limits/terminal.v (hunk 9 above)
Comment (rmatthes) [reply UniMath/CategoryTheory/limits/terminal.v:199]: I now also make use of `abstract` in the "legacy" `Terminal_functor_precat`.

File: UniMath/CategoryTheory/Monoidal/ConstructionOfActegories.v [hunk 19]
```diff
@@ -112,8 +116,8 @@ Defined.
 
 Lemma lifted_actegory_laws: actegory_laws Mon_W lifted_actegory_data.
 Proof.
-  split; [| split; [| split]]. (* splits into the 4 main goals *)
-  - repeat split.
+  split4. (* splits into the 4 main goals *)
```
[the remark this answers is not in the document]
Comment (m-lindgren) [reply UniMath/CategoryTheory/Monoidal/ConstructionOfActegories.v:119]: How about having a `make_actegory_laws` that takes the four main goals as arguments (and similar functions in other situations), to avoid some of these `splitxx` and `repeat split`?

File: UniMath/CategoryTheory/limits/binproducts.v (hunk 10 above)
Comment (rmatthes) [reply UniMath/CategoryTheory/limits/binproducts.v:703]: I did not see commutativity of binary products in the library - did I overlook it? I agree it would be better to work from first principles. The commutativity for the binary product of functors was only needed for a side question, therefore I did not treat it with due respect.

File: UniMath/CategoryTheory/limits/binproducts.v (hunk 11 above)
Comment (rmatthes) [reply UniMath/CategoryTheory/limits/binproducts.v:847]: As far as I remember, the `is_iso` versions had been there already, and I did not want to break anything downstream (maybe in the satellites).

File: UniMath/CategoryTheory/limits/binproducts.v (hunk 12 above)
Comment (rmatthes) [reply UniMath/CategoryTheory/limits/binproducts.v:879]: see above for `unit_l`

File: UniMath/CategoryTheory/Monoidal/ConstructionOfActegories.v (hunk 19 above)
[the remark this answers is not in the document]
Comment (nmvdw) [reply UniMath/CategoryTheory/Monoidal/ConstructionOfActegories.v:119]: That is better!

[the remark this answers is not in the document]
Comment (nmvdw) [reply UniMath/CategoryTheory/Monoidal/ConstructionOfActegories.v:119]: Note: this approach would not be convenient in all situations. The tactic `use` goes up to 15 arguments (https://github.com/UniMath/UniMath/blob/master/UniMath/Foundations/Init.v#L188), whereas bicategories have 21 laws (https://github.com/UniMath/UniMath/blob/master/UniMath/Bicategories/Core/Bicat.v). However, this is not a problem for actegories, so there it is suitable to use this approach.

File: UniMath/CategoryTheory/limits/binproducts.v (hunk 13 above)
Comment (rmatthes) [reply UniMath/CategoryTheory/limits/binproducts.v:927]: I only played it back to the pointwise situation. Sorry for this laziness. And there is a small difference that is maybe really ugly: I prefer the constantly terminal functor over `Terminal_functor_precat`. But I take the opportunity to change this completely.

File: UniMath/CategoryTheory/Monoidal/CategoriesOfMonoidsWhiskered.v (hunk 14 above)
Comment (nmvdw) [reply UniMath/CategoryTheory/Monoidal/CategoriesOfMonoidsWhiskered.v:22]: I see. That is indeed that case if you have `Context {C : category} (M : monoidal C).` However, in a definition like `monoidal_cat`, where everything is put together, it is not a problem. It is something worth to ponder about, but then not relevant for this PR.

File: UniMath/CategoryTheory/Monoidal/ConstructionOfActegories.v (hunk 19 above)
[the remark this answers is not in the document]
Comment (rmatthes) [reply UniMath/CategoryTheory/Monoidal/ConstructionOfActegories.v:119]: Cf. my answer to your comment on the definition of those `splitn` tactics. `split5` does not even apply here since the splitting does not go into the side branches.

File: UniMath/CategoryTheory/Monoidal/CoproductsInActegories.v [hunk 20]
```diff
@@ -0,0 +1,401 @@
...
+Section FixAMonoidalCategory.
+
+  Context {V : category} (Mon_V : monoidal V). (** given the monoidal category that acts upon categories *)
+
+
+Section BinaryCoproduct.
+
+  Context {C : category} (BCP : BinCoproducts C) (Act : actegory Mon_V C).
+
+  Definition actegory_bincoprod_antidistributor := bifunctor_bincoprod_antidistributor BCP BCP Act.
```
[the remark this answers is not in the document]
Comment (rmatthes) [reply UniMath/CategoryTheory/Monoidal/CoproductsInActegories.v:41]: Okay, this is long but useful.

File: UniMath/CategoryTheory/Monoidal/CoproductsInActegories.v [hunk 21]
```diff
@@ -0,0 +1,401 @@
...
+
+  Lemma actegory_bincoprod_antidistributor_nat_left (v : V) (cd1 cd2 : category_binproduct C C) (g : category_binproduct C C ⟦ cd1, cd2 ⟧) :
```
[the remark this answers is not in the document]
Comment (rmatthes) [reply UniMath/CategoryTheory/Monoidal/CoproductsInActegories.v:43]: Thanks, I now do so in the entire file.

File: UniMath/CategoryTheory/Monoidal/CoproductsInActegories.v [hunk 22]
```diff
@@ -0,0 +1,401 @@
...
+    red; repeat split.
+    - red.
+      intros v cd1 cd2 g.
+      apply (z_iso_inv_to_right _ _ _ _ (_,,bincoprod_functor_lineator_strongly δ v _)).
+      rewrite assoc'.
+      apply (z_iso_inv_to_left _ _ _ (_,,bincoprod_functor_lineator_strongly δ v _)).
+      apply bincoprod_antidistributor_nat_left.
+    - red.
+      intros v1 v2 cd f.
+      apply (z_iso_inv_to_right _ _ _ _ (_,,bincoprod_functor_lineator_strongly δ _ _)).
```
[the remark this answers is not in the document]
Comment (rmatthes) [reply UniMath/CategoryTheory/Monoidal/CoproductsInActegories.v:159]: we encounter the recurrent `Illegal application (Non-functional construction)`

File: UniMath/CategoryTheory/Monoidal/Examples/ActionOfEndomorphismsInCATWhiskeredElementary.v [hunk 23]
```diff
@@ -0,0 +1,274 @@
...
+
+  (*
+  Import BifunctorNotations.
+  Import MonoidalNotations.
+  Import ActegoryNotations.
+   *)
+
+  Context (C D : category).
+
+Local Definition Mon_endo: monoidal [C, C] := monendocat_monoidal C.
```
[the remark this answers is not in the document]
Comment (rmatthes) [reply UniMath/CategoryTheory/Monoidal/Examples/ActionOfEndomorphismsInCATWhiskeredElementary.v:39]: I am not sure if that helps so much if `C` still has to be given.

File: UniMath/CategoryTheory/Monoidal/Examples/ActionOfEndomorphismsInCATWhiskeredElementary.v [hunk 24]
```diff
@@ -0,0 +1,274 @@
...
+
+Definition action_from_precomp_CAT_data : bifunctor_data [C, C] [C, D] [C, D].
+Proof.
+  use make_bifunctor_data.
+  - intros v f. exact (functor_composite v f).
+  - intros v f1 f2 β. exact (lwhisker_CAT v β).
+  - intros f v1 v2 α. exact (rwhisker_CAT f α).
+Defined.
+
+(* (** we explicitly do not opacify the following definition: *) *)
```
[the remark this answers is not in the document]
Comment (rmatthes) [reply UniMath/CategoryTheory/Monoidal/Examples/ActionOfEndomorphismsInCATWhiskeredElementary.v:49]: This is why the coqdoc comment is again commented. If there was some spare time, I would still like to understand if there is a solution to that nasty problem that the lifted lineators cannot be transferred between actions of endomorphisms on endomorphisms (by instantiating to the same category) and the self-action of the endomorphisms.

File: UniMath/CategoryTheory/Monoidal/Examples/ActionOfEndomorphismsInCATWhiskeredElementary.v [hunk 25]
```diff
@@ -0,0 +1,274 @@
...
+Section TheHomogeneousCase.
+
+  Context (C : category).
+
+(* (** requires [action_from_precomp_CAT] with known proofs of the laws to be even convertibility *) *)
+Definition action_in_actegory_from_precomp_CAT_as_self_action :
+  actegory_action (Mon_endo C) (actegory_from_precomp_CAT C C) =
+    actegory_action (Mon_endo C) (actegory_with_canonical_self_action (Mon_endo C)).
+Proof.
+  use total2_paths_f.
```
[the remark this answers is not in the document]
Comment (rmatthes) [reply UniMath/CategoryTheory/Monoidal/Examples/ActionOfEndomorphismsInCATWhiskeredElementary.v:105]: Okay.

File: UniMath/CategoryTheory/Monoidal/Examples/ActionOfEndomorphismsInCATWhiskeredElementary.v [hunk 26]
```diff
@@ -0,0 +1,274 @@
...
+  Let BCPCD : BinCoproducts [C, D] := BinCoproducts_functor_precat C D BCP.
+
+  Definition actegory_from_precomp_CAT_bincoprod_distributor_data :
+    actegory_bincoprod_distributor_data (Mon_endo C) BCPCD (actegory_from_precomp_CAT C D).
+  Proof.
+    intro F.
+    apply precomp_bincoprod_distributor_data.
+  Defined.
+
+  Goal ∏ F G1 G2 c, pr1 (actegory_from_precomp_CAT_bincoprod_distributor_data F G1 G2) c = identity _.
```
[the remark this answers is not in the document]
Comment (rmatthes) [reply UniMath/CategoryTheory/Monoidal/Examples/ActionOfEndomorphismsInCATWhiskeredElementary.v:229]: Okay.

File: UniMath/CategoryTheory/Monoidal/Examples/MonadsAsMonoidsWhiskeredElementary.v [hunk 27]
```diff
@@ -0,0 +1,94 @@
...
+Require Import UniMath.CategoryTheory.Monoidal.MonoidalCategoriesWhiskered.
+
+
+Require Import UniMath.CategoryTheory.Monoidal.CategoriesOfMonoidsWhiskered.
+Require Import UniMath.CategoryTheory.Monoidal.Examples.EndofunctorsWhiskeredMonoidalElementary.
+Require Import UniMath.CategoryTheory.Monads.Monads.
+
+Local Open Scope cat.
+
+Section A.
```
[the remark this answers is not in the document]
Comment (rmatthes) [reply UniMath/CategoryTheory/Monoidal/Examples/MonadsAsMonoidsWhiskeredElementary.v:26]: Okay for the renaming. It will be an equivalence if it is in the abstract situation, but it might be easier to prove here.

File: UniMath/CategoryTheory/Monoidal/Examples/MonoidalPointedObjects.v [hunk 28]
```diff
@@ -446,28 +467,29 @@ Section PointedObjectFixpointMonoidal.
               ]).
   Defined.
 
+
   Definition ptdob_to_ptdptdob_fmonoidal_stronglaws
     : fmonoidal_stronglaws (fmonoidal_preservestensordata ptdob_to_ptdptdob_fmonoidal_lax)
                            (fmonoidal_preservesunit ptdob_to_ptdptdob_fmonoidal_lax).
   Proof.
```
[the remark this answers is not in the document]
Comment (rmatthes) [reply UniMath/CategoryTheory/Monoidal/Examples/MonoidalPointedObjects.v:474]: For the time being, I marked it as TODO in the code.

File: UniMath/CategoryTheory/Monoidal/Examples/SelfActionInCATWhiskeredElementary.v [hunk 29]
```diff
@@ -0,0 +1,194 @@
...
+      apply functor_id.
+    - intros ?; intros.
+      apply (nat_trans_eq C).
+      intro c.
+      cbn.
+      rewrite id_left.
+      apply functor_id.
+  Qed.
+
+  (** the following definition may not be usable because of its tigght typing *)
```
[the remark this answers is not in the document]
Comment (rmatthes) [reply UniMath/CategoryTheory/Monoidal/Examples/SelfActionInCATWhiskeredElementary.v:78]: Okay.

File: UniMath/CategoryTheory/Monoidal/ProductActegory.v [hunk 30]
```diff
@@ -0,0 +1,419 @@
+(** binary and I-indexed product of actegories w.r.t. the same acting monoidal category
```
[the remark this answers is not in the document]
Comment (rmatthes) [reply UniMath/CategoryTheory/Monoidal/ProductActegory.v:1]: Well observed. This figures on an internal list of issues I made.

File: UniMath/CategoryTheory/coslicecat.v (hunk 16 above)
Comment (rmatthes) [reply UniMath/CategoryTheory/coslicecat.v:95]: Even if it would compile, @DanGrayson might not like it to lose duality again (at least, this was the purpose of that transparent form).

File: UniMath/CategoryTheory/Monoidal/ConstructionOfActegoryMorphisms.v (hunk 17 above)
Comment (rmatthes) [reply UniMath/CategoryTheory/Monoidal/ConstructionOfActegoryMorphisms.v:520]: No, not sufficient.

File: UniMath/CategoryTheory/Monoidal/ConstructionOfActegoryMorphisms.v (hunk 18 above)
Comment (rmatthes) [reply UniMath/CategoryTheory/Monoidal/ConstructionOfActegoryMorphisms.v:565]: Same as before: one is not enough.

**Comment by m-lindgren** [comment]
> Can you try on [coq/coq#17294](https://github.com/coq/coq/pull/17294) ?

@SkySkimmer I compiled part of this PR (`make Combinatorics`) with the version of coq you linked, and it compiled fine.

I also verified again that `make Combinatorics` fails with current master of coq, and it does:
```
COQC UniMath/Combinatorics/Lists.v
File "./UniMath/Combinatorics/Lists.v", line 223, characters 4-26:
Error: Found no subterm matching "foldr1_map ?M77 ?M78 ?M79 nil" in the current goal.

make[1]: *** [build/CoqMakefile.make:816: UniMath/Combinatorics/Lists.vo] Fel 1
```

Note, the version of this PR that I tested is: 28136081130b0aa607115e86f1527d9754103c89

File: UniMath/CategoryTheory/Monoidal/ConstructionOfActegories.v (hunk 19 above)
[the remark this answers is not in the document]
Comment (rmatthes) [reply UniMath/CategoryTheory/Monoidal/ConstructionOfActegories.v:119]: > Note: this approach would not be convenient in all situations. The tactic `use` goes up to 15 arguments (https://github.com/UniMath/UniMath/blob/master/UniMath/Foundations/Init.v#L188), whereas bicategories have 21 laws (https://github.com/UniMath/UniMath/blob/master/UniMath/Bicategories/Core/Bicat.v). However, this is not a problem for actegories, so there it is suitable to use this approach.

This is why I proposed split tactics up to `split21`.

[the remark this answers is not in the document]
Comment (rmatthes) [reply UniMath/CategoryTheory/Monoidal/ConstructionOfActegories.v:119]: > How about having a `make_actegory_laws` that takes the four main goals as arguments (and similar functions in other situations), to avoid some of these `splitxx` and `repeat split`?

I find the dedicated `makexxx` helpful for dependent sums, but to my mind, this would be too much boilerplate for simple n-ary conjunctions of propositions.

File: UniMath/CategoryTheory/coslicecat.v (hunk 16 above)
Comment (rmatthes) [reply UniMath/CategoryTheory/coslicecat.v:95]: I checked that the main UniMath repository is unaffected by putting `Qed`.

File: UniMath/CategoryTheory/Monoidal/ConstructionOfActegoryMorphisms.v [hunk 31]
```diff
@@ -0,0 +1,1212 @@
...
+          {W : category} (Mon_W : monoidal W)
+          {F : W ⟶ V} (U : fmonoidal Mon_W Mon_V F).
+
+
+Section LiftedLaxLineator.
+
+  Context {C D : category} (ActC : actegory Mon_V C) (ActD : actegory Mon_V D) {H : functor C D}
+    (ll : lineator_lax Mon_V ActC ActD H).
+
+  Definition lifted_lax_lineator_data : lineator_data Mon_W (lifted_actegory Mon_V ActC Mon_W U)
```
[the remark this answers is not in the document]
Comment (rmatthes) [reply UniMath/CategoryTheory/Monoidal/ConstructionOfActegoryMorphisms.v:60]: See [new commit](https://github.com/UniMath/UniMath/pull/1633/commits/9b94877c997a633a5447680e6cd74487af2a3bf5)

File: UniMath/Bicategories/PseudoFunctors/Examples/LiftingActegories.v [hunk 32]
```diff
@@ -0,0 +1,82 @@
...
+                | apply actbicat_disp_locally_groupoid]).
+  Defined.
+
+  Lemma lifting_actegories_disp_psfunctor_laws :
+    is_disp_psfunctor dBV dBW (id_psfunctor _) lifting_actegories_disp_psfunctor_data.
+  Proof.
+    split7; red; intros; apply actbicat_disp_2cells_isaprop.
+  Qed.
+
+  Definition lifting_actegories_disp_psfunctor : disp_psfunctor dBV dBW (id_psfunctor _)
```
Comment (nmvdw) [inline UniMath/Bicategories/PseudoFunctors/Examples/LiftingActegories.v:76]: Cool! For this definition, it might be more convenient to use https://github.com/UniMath/UniMath/blob/master/UniMath/Bicategories/DisplayedBicats/DispBuilders.v#L30.

File: UniMath/CategoryTheory/limits/binproducts.v (hunk 10 above)
Comment (nmvdw) [reply UniMath/CategoryTheory/limits/binproducts.v:703]: It does indeed not seem to be in the library. For the current PR, I don't think it's necessary to refactor it, but it can be left as future work.

File: UniMath/SubstitutionSystems/ActionScenarioForGenMendlerIteration_alt.v [hunk 33]
```diff
@@ -0,0 +1,273 @@
...
+    apply is_omega_cocont_BinCoproduct_of_functors.
+    - apply is_omega_cocont_constant_functor.
+    - exact HH.
+  Qed.
+
+  Let μF_Initial : Initial AF := colimAlgInitial IC HF (CC chnF).
+  Let μF : C := alg_carrier _ (InitialObject μF_Initial).
+  Let α : Const_plus_H c0 μF --> μF := alg_map (Const_plus_H c0) (pr1 μF_Initial).
+
+  Let η : C⟦constant_functor C C c0 μF, μF⟧ := BinCoproductIn1 (CP _ _) · α.
```
Comment (nmvdw) [inline UniMath/SubstitutionSystems/ActionScenarioForGenMendlerIteration_alt.v:84]: Is the type of `\eta` equal to `c0 --> \muF`? The reason why you wrote the type in this way, is because it functions as some kind of algebra map, right?

File: UniMath/SubstitutionSystems/ActionScenarioForGenMendlerIteration_alt.v [hunk 34]
```diff
@@ -0,0 +1,273 @@
...
+                                     BinCoproductArrow (CP _ _) f (θ v μF · #H h · ρ).
+
+  Context (δ : actegory_bincoprod_distributor Mon_V CP Act).
+
+  Definition instance_SpecialGenMendlerIterationWithActegory (h : C ⟦v ⊗_{Act} μF, y⟧) : UU :=
+    v ⊗^{Act}_{l} α · h = δ v c0 (H μF) · BinCoproductOfArrows _ (CP _ _) (CP _ _) f (θ v μF) ·
+                            #(Const_plus_H y) h · BinCoproductArrow (CP _ _) (identity y) ρ.
+
+  Local Lemma charpropequivsingleeq (h : C ⟦v ⊗_{Act} μF, y⟧) :
+    charprop_SpecialGenMendlerIterationWithActegoryAndStrength h <-> singleeq_SpecialGenMendlerIterationWithActegoryAndStrength h.
```
Comment (nmvdw) [inline UniMath/SubstitutionSystems/ActionScenarioForGenMendlerIteration_alt.v:116]: Would `\simeq` (using `weqimplimpl` in the proof) be better here? What does @benediktahrens think?

File: UniMath/SubstitutionSystems/BindingSigToMonad_actegorical.v [hunk 35]
```diff
@@ -0,0 +1,424 @@
...
+        + intro; intros. apply (nat_trans_eq C).
+          intro c'.
+          cbn.
+          repeat rewrite id_right.
+          apply idpath.
+        + intro; intros. apply (nat_trans_eq C).
+          intro c'.
+          apply idpath.
+    Defined.
+    (* should be better opacified *)
```
Comment (nmvdw) [inline UniMath/SubstitutionSystems/BindingSigToMonad_actegorical.v:159]: Each of the goals after `split4` can be put in an `abstract`

**Review by nmvdw — COMMENTED** [review]
I have gone through 109 out of the 132 files now. So, I think that a review of this PR should be ready within one or two days the most.

**Comment by nmvdw** [comment]
The error is:
```
error: *** UniMath/Bicategories/PseudoFunctors/Examples/LiftingActegories.vo should not require UniMath/Bicategories/DisplayedBicats/DispBuilders.vo
```
`LiftingActegories.v` should be put later in the file list (after `DispBuilders.v`).

File: UniMath/SubstitutionSystems/EquivalenceSignaturesWithActegoryMorphisms.v [hunk 36]
```diff
@@ -422,4 +456,57 @@ End AA.
...
  Defined.
 
+ Lemma weqSignatureLaxMorphismActegories_alt :
+   Signature C D D' ≃ hom(C:=actbicat Mon_ptdendo) (hom(C:=bicat_of_cats) C D',,actegoryPtdEndosOnFunctors D') (hom(C:=bicat_of_cats) C D,,actegoryPtdEndosOnFunctors D).
+ Proof.
+   apply (weqcomp weqSignatureLaxMorphismActegories).
+   apply weqfibtototal.
+   intro H.
+   cbn.
+   apply idweq. (* very slow *)
```
[the remark this answers is not in the document]
Comment (rmatthes) [reply UniMath/SubstitutionSystems/EquivalenceSignaturesWithActegoryMorphisms.v:466]: The gain is only fractions of a second on my machine. But I'll make this small change.

File: UniMath/SubstitutionSystems/ActionScenarioForGenMendlerIteration_alt.v (hunk 33 above)
Comment (rmatthes) [reply UniMath/SubstitutionSystems/ActionScenarioForGenMendlerIteration_alt.v:84]: I do not see any longer the advantage of displaying the hom-set. I changed all occurrences in the file (locally).

File: UniMath/SubstitutionSystems/BindingSigToMonad_actegorical.v (hunk 35 above)
Comment (rmatthes) [reply UniMath/SubstitutionSystems/BindingSigToMonad_actegorical.v:159]: I put the entire split4 construction into `abstract`.

**Comment by rmatthes** [comment]
> The error is:
> 
> ```
> error: *** UniMath/Bicategories/PseudoFunctors/Examples/LiftingActegories.vo should not require UniMath/Bicategories/DisplayedBicats/DispBuilders.vo
> ```
> 
> `LiftingActegories.v` should be put later in the file list (after `DispBuilders.v`).

Every time I check the dependencies, I have to remove the All.v files in order to run Dune again, so I do not do this systematically. Sorry.

File: UniMath/SubstitutionSystems/ContinuitySignature/InstantiateHSET.v [hunk 37]
```diff
@@ -0,0 +1,218 @@
...
+
+Section OmegaLimitsCommutingWithCoproductsHSET.
+
+  Definition HSET_ω_limits : Lims_of_shape conat_graph HSET.
+  Proof.
+    intro coch.
+    apply LimConeHSET.
+  Defined.
+
+  Lemma test {I : HSET} (ind : pr1 I → cochain SET)
```
[the remark this answers is not in the document]
Comment (rmatthes) [reply UniMath/SubstitutionSystems/ContinuitySignature/InstantiateHSET.v:79]: I applied your suggestion, but @Kfwullaert should agree with it.

File: UniMath/SubstitutionSystems/ContinuitySignature/GeneralLemmas.v [hunk 38]
```diff
@@ -0,0 +1,197 @@
...
+           (I : UU) (C : category) (a : I -> C) (CC : Coproduct I C a)
+           (c : I -> C) (CC' : Coproduct I C c) (f : ∏ i : I, C⟦a i, c i⟧)
+  : (∏ i : I, is_z_isomorphism (f i)) -> is_z_isomorphism (CoproductOfArrows I C CC CC' f).
+Proof.
+  intro fi_iso.
+  use make_is_z_isomorphism.
+  - use CoproductOfArrows.
+    exact (λ i, pr1 (fi_iso i)).
+  - split.
+    + etrans. { apply precompWithCoproductArrow. }
```
[the remark this answers is not in the document]
Comment (rmatthes) [reply UniMath/SubstitutionSystems/ContinuitySignature/GeneralLemmas.v:30]: ok

File: UniMath/SubstitutionSystems/ContinuitySignature/GeneralLemmas.v [hunk 39]
```diff
@@ -0,0 +1,197 @@
...
+Lemma coproduct_of_functors_nat_trans
+      {I : UU} {C D : category} (CP : Coproducts I D) {F G : I → C ⟶ D}
+      (α : ∏ i : I, nat_trans (F i) (G i))
+  : nat_trans (coproduct_of_functors I C D CP F) (coproduct_of_functors I C D CP G).
+Proof.
+  use make_nat_trans.
+  - intro c.
+    use CoproductOfArrows.
+    exact (λ i, α i c).
+  - intros c1 c2 f.
```
[the remark this answers is not in the document]
Comment (rmatthes) [reply UniMath/SubstitutionSystems/ContinuitySignature/GeneralLemmas.v:75]: ok

File: UniMath/SubstitutionSystems/ContinuitySignature/GeneralLemmas.v [hunk 40]
```diff
@@ -0,0 +1,197 @@
...
+        etrans.
+        1: apply maponpaths, pathsinv0, (pr21 (nat_z_iso_inv i)).
+        etrans.
+        1: apply assoc.
+        apply maponpaths_2, (pr2 f v).
+      }
+
+      exact (base_paths _ _ (pr2 t c')).
+    + apply (impred_isaprop) ; intro ; apply homset_property.
+Defined.
```
[the remark this answers is not in the document]
Comment (rmatthes) [reply UniMath/SubstitutionSystems/ContinuitySignature/GeneralLemmas.v:200]: in principle, there is computational content in $\omega$-continuity

[the remark this answers is not in the document]
Comment (benediktahrens) [reply UniMath/SubstitutionSystems/ContinuitySignature/GeneralLemmas.v:224]: Limits and preservation of limits contain an existence part and a uniqueness part. The former should be transparent, the latter opaque.

[the remark this answers is not in the document]
Comment (rmatthes) [reply UniMath/SubstitutionSystems/ContinuitySignature/GeneralLemmas.v:224]: To be concrete: every result concluding some continuity has to be defined, but internally organized not to expose the uniqueness proofs. Although I do not know where we profit from those existence proofs. Is there an example in UniMath where this exposure is used?

**Comment by rmatthes** [comment]
Does someone know why there is no more CI triggered on this PR?

File: UniMath/SubstitutionSystems/SimplifiedHSS/Lam.v [hunk 41]
```diff
@@ -0,0 +1,544 @@
...
+    + abstract
+        (intro c; rewrite id_right ;
+         apply BinCoproductIn1Commutes_right_dir;
+         apply idpath) .
+Defined.
+
+(** this iso does nothing, but is needed to make the argument to [fbracket] below well-typed *)
+(* maybe a better definition somewhere above could make this iso superfluous *)
+(* maybe don't need iso, but only morphism *)
+Local Definition bla : iso (ptd_from_alg_functor CC LamE_S LamE_algebra_on_Lam) (ptd_from_alg_functor CC _ Lam).
```
Comment (nmvdw) [inline UniMath/SubstitutionSystems/SimplifiedHSS/Lam.v:194]: Because it is a local definition `bla` (and `bla'` will be in the namespace afterwards). A renaming might be good here.

**Comment by benediktahrens** [comment]
@rmatthes : your latest commit to this branch triggered CI to be launched. Very mysterious...

File: UniMath/SubstitutionSystems/ContinuitySignature/InstantiateHSET.v [hunk 42]
```diff
@@ -0,0 +1,218 @@
...
+    : propcoproducts_commute_binproducts HSET BinProductsHSET (λ p, CoproductsHSET p (isasetaprop (pr2 p))).
+  Proof.
+    intros p x y.
+    use make_is_z_isomorphism.
+    - intros [ix iy].
+      exists (pr1 ix).
+      exact (pr2 ix,,pr2 iy).
+    - split.
+      + apply funextsec ; intro ixy.
+        use total2_paths_f ; apply idpath.
```
Comment (nmvdw) [inline UniMath/SubstitutionSystems/ContinuitySignature/InstantiateHSET.v:57]: I think `apply idpath` might have worked here, so the `use total2_paths_f` is not needed.

File: UniMath/SubstitutionSystems/ContinuitySignature/InstantiateHSET.v [hunk 43]
```diff
@@ -0,0 +1,218 @@
...
+      + apply funextsec ; intros [ix iy].
+        use total2_paths_f.
+        * apply idpath.
+        * use total2_paths_f.
+          -- apply (pr2 p).
+          -- cbn.
+             induction (pr1 (pr2 p (pr1 ix) (pr1 iy))).
+             rewrite idpath_transportf.
```
Comment (nmvdw) [inline UniMath/SubstitutionSystems/ContinuitySignature/InstantiateHSET.v:65]: `idpath_transportf` should hold by `idpath`, so I think that on this line, `apply idpath` could have been used.

**Comment by rmatthes** [comment]
Maybe the CI is stalled if there were too many canceled checks - due to new commits to the branch on which the PR is based.

File: UniMath/SubstitutionSystems/EquivalenceSignaturesWithActegoryMorphisms.v [hunk 44]
```diff
@@ -422,4 +456,57 @@ End AA.
    apply weqABStrengthLaxMorphismActegories.
  Defined.
 
+ Lemma weqSignatureLaxMorphismActegories_alt :
+   Signature C D D' ≃ hom(C:=actbicat Mon_ptdendo) (hom(C:=bicat_of_cats) C D',,actegoryPtdEndosOnFunctors D') (hom(C:=bicat_of_cats) C D,,actegoryPtdEndosOnFunctors D).
+ Proof.
+   apply (weqcomp weqSignatureLaxMorphismActegories).
+   apply weqfibtototal.
+   intro H.
+   cbn.
```
Comment (nmvdw) [inline UniMath/SubstitutionSystems/EquivalenceSignaturesWithActegoryMorphisms.v:465]: If you remove the `cbn`, does that help?

File: UniMath/SubstitutionSystems/MultiSortedMonadConstruction_actegorical.v [hunk 45]
```diff
@@ -0,0 +1,285 @@
...
+(* Assumptions on [C] used to construct the functor *)
+(* Note that there is some redundancy in the assumptions *)
+Context (TC : Terminal C) (IC : Initial C)
+          (BP : BinProducts C) (BC : BinCoproducts C)
+          (PC : forall (I : UU), Products I C) (CC : forall (I : UU), isaset I → Coproducts I C).
+
+Local Notation "'1'" := (TerminalObject TC).
+Local Notation "a ⊕ b" := (BinCoproductObject (BC a b)).
+
+(** Define the discrete category of sorts *)
```
Comment (nmvdw) [inline UniMath/SubstitutionSystems/MultiSortedMonadConstruction_actegorical.v:99]: Now that `Hsort` is of hlevel 3, this category is not discrete anymore. So, I'd remove 'discrete' in this comment.

File: UniMath/SubstitutionSystems/ConstructionOfGHSS.v [hunk 46]
```diff
@@ -0,0 +1,489 @@
...
+      etrans.
+      2: { apply pathsinv0, precompWithBinCoproductArrow. }
+      apply maponpaths_12.
+      + cbn. rewrite id_left. exact Hyp2.
+      + cbn. exact Hyp1.
+    - intros [h Hyp].
+      use total2_paths_f.
+      + apply idpath.
+      + apply isapropdirprod; apply V.
+  Defined.
```
Comment (nmvdw) [inline UniMath/SubstitutionSystems/ConstructionOfGHSS.v:332]: Would `Qed` be more appropriate here?

**Review by nmvdw — COMMENTED** [review]
I'm at 129/139

File: UniMath/SubstitutionSystems/SimplifiedHSS/BindingSigToMonad.v [hunk 47]
```diff
@@ -0,0 +1,351 @@
...
+Definition SignatureToHSSisInitial
+  (IC : Initial C) (CLC : Colims_of_shape nat_graph C)
+  (H : Presignature C C C) (Hs : is_omega_cocont H) :
+  isInitial _ (SignatureToHSS IC CLC H Hs).
+Proof.
+now unfold SignatureToHSS; destruct InitialHSS.
+Qed.
+
+(* Redefine this here so that it uses the arguments above *)
+Let Monad_from_hss (H : Signature C C C) : HSS H → Monad C.
```
[the remark this answers is not in the document]
Comment (rmatthes) [reply UniMath/SubstitutionSystems/SimplifiedHSS/BindingSigToMonad.v:247]: I think it was only a convenience abbreviation not worthy being used elsewhere. The entire file is rather a summary than the code to work with.

File: UniMath/SubstitutionSystems/SimplifiedHSS/Lam.v (hunk 41 above)
Comment (rmatthes) [reply UniMath/SubstitutionSystems/SimplifiedHSS/Lam.v:194]: Was there for >7 years in the file from where this is copied, but I now changed it - and this is better (in both files).

File: UniMath/SubstitutionSystems/ContinuitySignature/InstantiateHSET.v (hunk 42 above)
Comment (rmatthes) [reply UniMath/SubstitutionSystems/ContinuitySignature/InstantiateHSET.v:57]: true

File: UniMath/SubstitutionSystems/EquivalenceSignaturesWithActegoryMorphisms.v (hunk 44 above)
Comment (rmatthes) [reply UniMath/SubstitutionSystems/EquivalenceSignaturesWithActegoryMorphisms.v:465]: Same time consumption (~7s for the slow lines each), therefore `cbn` removed

File: UniMath/SubstitutionSystems/MultiSortedMonadConstruction_actegorical.v (hunk 45 above)
Comment (rmatthes) [reply UniMath/SubstitutionSystems/MultiSortedMonadConstruction_actegorical.v:99]: ok - done in four files (the assumption evolved)

File: UniMath/SubstitutionSystems/ContinuitySignature/InstantiateHSET.v (hunk 43 above)
Comment (rmatthes) [reply UniMath/SubstitutionSystems/ContinuitySignature/InstantiateHSET.v]: ok

File: UniMath/Bicategories/MonoidalCategories/MonadsAsMonoidsWhiskered.v (hunk 5 above)
Comment (rmatthes) [reply UniMath/Bicategories/MonoidalCategories/MonadsAsMonoidsWhiskered.v:1]: I created the correspondence both ways, including for morphisms. But I leave the rest for later.

File: UniMath/CategoryTheory/Monoidal/Examples/EndofunctorsWhiskeredMonoidalElementary.v [hunk 48]
```diff
@@ -0,0 +1,110 @@
...
+    - intros a b. exact (functor_compose a b).
+    - intros a b1 b2 β. exact (lwhisker_CAT _ β).
+    - intros b a1 a2 α. exact (rwhisker_CAT _ α).
+  Defined.
+
+  (* (** we explicitly do not opacify the following definition: *) *)
+  Definition monendocat_tensor_laws : is_bifunctor monendocat_tensor_data.
+  Proof.
+    split5.
+    - intros ?; apply lwhisker_id2_CAT.
```
[the remark this answers is not in the document]
Comment (rmatthes) [reply UniMath/CategoryTheory/Monoidal/Examples/EndofunctorsWhiskeredMonoidalElementary.v]: ok

File: UniMath/CategoryTheory/Monoidal/ProductActegory.v (hunk 15 above)
Comment (rmatthes) [reply UniMath/CategoryTheory/Monoidal/ProductActegory.v:347]: While I see your point, it is not this PR that introduced the use of `power`. It would be good to open an issue for that and deal with it separately - so that others not interested in the present PR could have their say.

Comment (nmvdw) [reply UniMath/CategoryTheory/Monoidal/ProductActegory.v:347]: That's a valid point.

File: UniMath/SubstitutionSystems/ContinuitySignature/MultiSortedSignatureFunctorEquivalence.v [hunk 49]
```diff
@@ -0,0 +1,803 @@
...
+Require Import UniMath.CategoryTheory.limits.Preservation.
+
+Local Open Scope cat.
+
+Section B.
+
+  Lemma make_isBinProduct'
+        {C : category} {x y : C}
+        (Pxy : BinProduct _ x y)
+    : ∏ z : C, ∏ (zx : C⟦z,x⟧) (zy : C⟦z,y⟧),
```
Comment (nmvdw) [inline UniMath/SubstitutionSystems/ContinuitySignature/MultiSortedSignatureFunctorEquivalence.v:51]:
```suggestion
    : ∏ (z : C) (zx : C⟦z,x⟧) (zy : C⟦z,y⟧),
```

File: UniMath/SubstitutionSystems/MultiSortedMonadConstruction_coind_actegorical.v [hunk 50]
```diff
@@ -0,0 +1,512 @@
...
+        {C : category} {I : UU}
+        {i : I -> C} {x : C}
+        (j : ∏ i0 : I, C ⟦ i i0, x ⟧)
+    : isaprop (isCoproduct I C i x j).
+  Proof.
+    repeat (apply impred; intro).
+    apply isapropiscontr.
+  Qed.
+
+  Definition z_iso_from_coproduct_to_coproduct
```
Comment (nmvdw) [inline UniMath/SubstitutionSystems/MultiSortedMonadConstruction_coind_actegorical.v:108]: The `Isos.` can be removed if `CategoryTheory.Core.Isos` is imported.

**Review by nmvdw — APPROVED** [review]
I think the code looks good and is ready to be merged. The only comments that I have, are very minor.

**Comment by benediktahrens** [comment]
At some point, this PR exposed a regression in Coq, between 8.16 and current dev version. This does not seem to be the case any more, that is, the code that exhibited the regression is gone from the PR. Why is that?

**Comment by rmatthes** [comment]
All commits in March come from me, and I never tried to address the problems with Coq dev. And all CI runs with Coq dev are still failing.

**Comment by m-lindgren** [comment]
> At some point, this PR exposed a regression in Coq, between 8.16 and current dev version. This does not seem to be the case any more, that is, the code that exhibited the regression is gone from the PR. Why is that?

It's still there: https://github.com/UniMath/UniMath/actions/runs/4331261734/jobs/7562982947#step:5:2008

**Comment by benediktahrens** [comment]
Thanks, @rmatthes and @m-lindgren. I was confused...

**Comment by m-lindgren** [comment]
We should probably revert this, so we don't upset the Coq developers. :-)

**Comment by rmatthes** [comment]
@m-lindgren Please see my PR #1639 concerning the compilation error you referred to above.
